US08557809B2
Step G: Preparation of 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethanesulfonate
2-(7-(2-M ethoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-ol (0.040 g, 0.119 mmol), N-phenyltriflimide (0.0467 g, 0.131 mmol) and TEA (0.0365 mL, 0.262 mmol) were dissolved in a solution of 2.5:1 THF/DMF (0.60 mL) under N2 atmosphere. After stirring at ambient temperature for 3 hours, the reaction mixture was diluted with H2O and the resulting precipitate was filtered to give 27 mg (49%) of desired product.

reactant | 2-(7-(2-M ethoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-ol | 0.119 mmol, 0.040 g | COCCOC1=CC=2N(C=C1)C(=NN2)C2=NC1=C(C=CC=C1C=C2)O | C18H16N4O3
reactant | N-phenyltriflimide | 0.131 mmol, 0.0467 g | C1(=CC=CC=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF DMF | 0.60 mL | C1CCOC1.CN(C)C=O
solvent | H2O | O | H2O
product | 2-(7-(2-methoxyethoxy)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl trifluoromethanesulfonate | 27 mg, 49% | FC(S(=O)(=O)OC=1C=CC=C2C=CC(=NC12)C1=NN=C2N1C=CC(=C2)OCCOC)(F)F | C19H15F3N4O5S
